US06809097B1
A solution of 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinoline hydrochloride (300 mg, 1 mmol) (prepared as described for the starting material in Example 5), and 6-aminoindazole (130 mg, 0.97 mmol) in 2-pentanol (10 ml) was heated at reflux for 3 hours. The precipitate was collected by filtration, washed with acetone and dried under vacuum. The residue was purified by reverse phase column chromatography eluting with methanol/water containing 1% acetic acid (40/60). Concentrated hydrochloric acid (5 drops) was added to the combined fractions of the product and the volatiles were removed by evaporation to give 4-(1H-indazol-6-ylamino)-6-methoxy-7-(2-methoxyethoxy)quinoline hydrochloride (213 mg, 54%).

reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinoline hydrochloride | 1 mmol, 300 mg | Cl.ClC1=CC=NC2=CC(=C(C=C12)OC)OCCOC
reactant | 6-aminoindazole | 0.97 mmol, 130 mg | NC1=CC=C2C=NNC2=C1 | C7H7N3
solvent | 2-pentanol | 10 ml | CC(CCC)O | C5H12O
product | 4-(1H-indazol-6-ylamino)-6-methoxy-7-(2-methoxyethoxy)quinoline hydrochloride | 213 mg, 54% | Cl.N1N=CC2=CC=C(C=C12)NC1=CC=NC2=CC(=C(C=C12)OC)OCCOC | InChI=1S/C20H20N4O3.ClH/c1-25-7-8-27-20-11-18-15(10-19(20)26-2)16(5-6-21-18)23-14-4-3-13-12-22-24-17(13)9-14;/h3-6,9-12H,7-8H2,1-2H3,(H,21,23)(H,22,24);1H
